US09260416B2
Step 1: 6-[6-Chloro-2-methyl-1-(1-propyl-1H-pyrazol-4-yl)-1H-indol-3-ylsulfanyl]-pyridine-2-carboxylic acid ethyl ester
Prepared according to the procedure described in Example 9, Step 4, using the following starting materials: 6-(6-chloro-2-methyl-1H-indol-3-ylsulfanyl)-pyridine-2-carboxylic acid ethyl ester and 4-bromo-1-propyl-1H-pyrazole.

reactant | 6-(6-chloro-2-methyl-1H-indol-3-ylsulfanyl)-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1)SC1=C(NC2=CC(=CC=C12)Cl)C | C17H15ClN2O2S
reactant | 4-bromo-1-propyl-1H-pyrazole | BrC=1C=NN(C1)CCC | C6H9BrN2
product | 6-[6-Chloro-2-methyl-1-(1-propyl-1H-pyrazol-4-yl)-1H-indol-3-ylsulfanyl]-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1)SC1=C(N(C2=CC(=CC=C12)Cl)C=1C=NN(C1)CCC)C | C23H23ClN4O2S
